US09388189B2
(S)-5-Methyl-2-(1-((5-(1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-5-Methyl-2-(1-((5-(1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (38 mg, 0.04 mmol, 66% purity) was treated with trifluoroacetic acid (760 μl, 9.86 mmol) and a solution of ammonia (7N in methanol, 760 μl, 5.32 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water-methanol/acetonitrile 1:1) to obtain 14 mg (69% yield) of the title compound.

reactant | (S)-5-Methyl-2-(1-((5-(1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.04 mmol, 38 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC(=NN1C)C(F)(F)F)COCC[Si](C)(C)C | C32H36F3N9O2Si
reactant | trifluoroacetic acid | 9.86 mmol, 760 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 5.32 mmol, 7N, 760 μl | N | H3N
product | (S)-5-Methyl-2-(1-((5-(1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 14 mg, 69% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=CC(=NN1C)C(F)(F)F | C26H22F3N9O
